US09212196B2
Ethyl 2-(2-fluoro-4-formyl-6-methoxyphenoxy)acetate
To a solution of 3-fluoro-4-hydroxy-5-methoxybenzaldehyde (302 mg, 1.78 mmol) in acetone (20 mL) was added cesium carbonate (765 mg, 2.35 mmol), followed by ethyl bromoacetate (0.30 mL, 2.7 mmol). The mixture was refluxed in acetone under stirring for 1 hour. After evaporation of acetone under reduced pressure, 100 mL of water were added and the mixture was extracted with dichloromethane (200 mL). The organic phase was washed with brine (100 mL), dried over magnesium sulfate and concentrated under vacuum. The residue was purified by column chromatography over silica gel (eluent: dichloromethane) to give 361 mg of an oil (79% yield). 1H NMR (500 MHz, CD3COCD3): δ 1.25 (t, J=7.2 Hz, 3H), 3.98 (s, 3H), 4.20 (q, J=7.2 Hz, 2H), 4.89 (t, J=1.6 Hz 2H), 7.34 (dd, J=10.3 Hz, 1.6 Hz, 1H), 7.41 (s, 1H), 9.88 (d, J=1.5 Hz, 1H). 13C NMR (126 MHz, CD3COCD3): δ 15.0, 57.6, 62.1, 70.3 (d, J=1.9 Hz), 110.0, 111.8 (d, J=20.6 Hz), 133.1 (d, J=7.2 Hz), 141.8, (d, J=12.7 Hz), 154.8 (d, J=4.5 Hz), 155.0 d, J=46.1 Hz) 169.7, 191.3.

reactant | 3-fluoro-4-hydroxy-5-methoxybenzaldehyde | 1.78 mmol, 302 mg | FC=1C=C(C=O)C=C(C1O)OC | C8H7FO3
reactant | cesium carbonate | 2.35 mmol, 765 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl bromoacetate | 2.7 mmol, 0.30 mL | BrCC(=O)OCC | C4H7BrO2
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | Ethyl 2-(2-fluoro-4-formyl-6-methoxyphenoxy)acetate | 361 mg, 79% yield | FC1=C(OCC(=O)OCC)C(=CC(=C1)C=O)OC | C12H13FO5
